US05025036
A mixture of 29.2 g (0.097 mol) of 1-(6-bromohexyl)-2,3-dimethoxybenzene, 18.5 g (0.088 mol) of 2,4-dihydroxy-3-propylbenzoic acid methyl ester, 18.2 g (0.13 mol) of anhydrous potassium carbonate and 21.9 g (0.13 mol) of potassium iodide in 550 mL of anhydrous acetone was stirred at reflux for 22 hours. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure to an oil which was purified by HPLC using 8% ethyl acetate-hexane to give 31.4 g (83% yield) of 4-[6-(2,3-dimethoxyphenyl)hexyloxy]-2-hydroxy-3-propylbenzoic acid methyl ester as an oil.

reactant | 1-(6-bromohexyl)-2,3-dimethoxybenzene | 0.097 mol, 29.2 g | BrCCCCCCC1=C(C(=CC=C1)OC)OC | C14H21BrO2
reactant | 2,4-dihydroxy-3-propylbenzoic acid methyl ester | 0.088 mol, 18.5 g | COC(C1=C(C(=C(C=C1)O)CCC)O)=O | C11H14O4
reactant | potassium carbonate | 0.13 mol, 18.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.13 mol, 21.9 g | [I-].[K+]
solvent | acetone | 550 mL | CC(=O)C | C3H6O
product | 4-[6-(2,3-dimethoxyphenyl)hexyloxy]-2-hydroxy-3-propylbenzoic acid methyl ester | 31.4 g, 83% yield | COC(C1=C(C(=C(C=C1)OCCCCCCC1=C(C(=CC=C1)OC)OC)CCC)O)=O | C25H34O6
